US08710232B2
3-(6-Aminopyridin-3-yl)-2-(1-cyclopentyl-1H-imidazol-4-yl)propionic acid
Cyclopentyl methyl 2-(6-aminopyridin-3-ylmethyl)-2-(1-cyclopentyl-1H-imidazol-4-yl)malonate (0.30 g; 0.57 mmol) was dissolved in absolute ethanol (5 ml). At 0° C., ethanolic HCl was added. The reaction solution was left to stand at 10° C. for 48 h. It was then concentrated under reduced pressure and the residue was taken up in 2N HCl. It was heated in a microwave (3×4 min; 180° C.). This was followed by washing with EA, and the aqueous phase was neutralized with 1N NaOH and then freeze-dried. The residue was taken up in methanol and filtered twice through a cartridge (C18). Concentration of the filtrate under reduced pressure resulted in 0.10 g of 3-(6-aminopyridin-3-yl)-2-(1-cyclopentyl-1H-imidazol-4-yl)-propionic acid.

reactant | Cyclopentyl methyl 2-(6-aminopyridin-3-ylmethyl)-2-(1-cyclopentyl-1H-imidazol-4-yl)malonate | 0.57 mmol, 0.30 g | NC1=CC=C(C=N1)CC(C(=O)OC1CCCC1)(C(=O)OC)C=1N=CN(C1)C1CCCC1 | C23H30N4O4
reactant | HCl | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(6-Aminopyridin-3-yl)-2-(1-cyclopentyl-1H-imidazol-4-yl)propionic acid | NC1=CC=C(C=N1)CC(C(=O)O)C=1N=CN(C1)C1CCCC1 | C16H20N4O2
